US08313669B2
20 g (99 mmol) of 2-(4-bromophenyl)ethanol, 20 g (72 mmol) of sodium metaborate octahydrate and 2.0 g (2.8 mmol) of bis(triphenylphosphine)palladium(II) chloride are initially introduced in 30 ml of THF and 120 ml of water, and, after addition of 0.03 ml of hydrazine hydrate, a solution of 15.5 g (85 mmol) of 3,5-dimethoxybenzeneboronic acid in 60 ml of THF is added dropwise. The batch is heated under reflux overnight and subsequently extracted four times with dichloromethane. The combined org. phases are washed with water and dried over sodium sulfate. The solvent is removed in vacuo, and the crude product is chromatographed on silica gel with heptane/ethyl acetate (2:1), giving 2-(3′,5′-dimethoxybiphenyl-4-yl)ethanol as a colourless solid.

reactant | 2-(4-bromophenyl)ethanol | 99 mmol, 20 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | hydrazine hydrate | 0.03 ml | O.NN
reactant | 3,5-dimethoxybenzeneboronic acid | 85 mmol, 15.5 g | COC=1C=C(C=C(C1)OC)B(O)O | C8H11BO4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | water | 120 ml | O | H2O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 2.8 mmol, 2.0 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(3′,5′-dimethoxybiphenyl-4-yl)ethanol | COC=1C=C(C=C(C1)OC)C1=CC=C(C=C1)CCO | C16H18O3
